US04885347
Preparation of t-butyl 4-(2,2,6,6-tetramethyl-4-piperidinylamino)-4-(oxo)peroxybutanoate (C-VII)
Into a 250 ml flask equipped with a magnetic stirrer, thermometer, condenser, addition funnel and calcium chloride drying tube were placed 2,2,6,6-tetramethyl-4-aminopiperidine (20.3 g, 0.13 mole) and 50 ml of methylene chloride. The addition funnel was charged with 4-t-butylperoxy-4-oxobutanoyl chloride (13.2 g, 0.06 mole) and 50 ml methylene chloride. The acid chloride was added dropwise at 20°-23° C. over a 20 minute period, causing a slight exotherm. The reaction mixture was warmed to 30° C. over 60 minutes and then stirred at 30° C. for another 30 minutes. The reaction mixture was poured into a jacketed reactor and washed at 20°-25° C. with eight 50 ml portions of water. The organic material was dried with anhydrous magnesium sulfate and the solvent stripped under reduced pressure to give 9.3 g of a light amber-straw liquid. Liquid chromatography of this product showed it to contain two components, one of which was 4-t-butylperoxy-4-oxobutanoic acid. Iodometric analysis indicated 5.65% active oxygen content which corresponds to a mixture of 22% perester-acid and 78% perester-amide (C-VII). The infrared spectrum (neat) showed three carbonyl absorptions at 1650, 1700 and 1770 cm-1 (amide, acid and perester) and a broad absorption at 3300 cm-1. Based on the 78% assay, the product was prepared in 37% corrected yield.

reactant | 2,2,6,6-tetramethyl-4-aminopiperidine | 0.13 mole, 20.3 g | CC1(NC(CC(C1)N)(C)C)C | C9H20N2
reactant | 4-t-butylperoxy-4-oxobutanoyl chloride | 0.06 mole, 13.2 g | C(C)(C)(C)OOC(CCC(=O)Cl)=O | C8H13ClO4
reactant | 4-t-butylperoxy-4-oxobutanoic acid | C(C)(C)(C)OOC(CCC(=O)O)=O | C8H14O5
reactant | oxygen | O=O | O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | t-butyl 4-(2,2,6,6-tetramethyl-4-piperidinylamino)-4-(oxo)peroxybutanoate | CC1(NC(CC(C1)NC(CCC(=O)OOC(C)(C)C)=O)(C)C)C | C17H32N2O4
